US05300506
4-(Ethoxycarbonyl)-1-(5-ethoxy-4-pyrimidinyl)piperazine
A mixture of 4-chloro-5-ethoxypyrimidine (1.98 g, 12.5 mmol), ethyl 1-piperazinecarboxylate (5.93 g, 37.5 mmol) and micropulverized K2CO3 (5.18 g, 37.5 mmol) was heated at reflux in CH3CN (75 mL) for 4 h. Upon cooling to 23° C., the solvent was removed under reduced pressure. The residue was dissolved in CH2Cl2 and washed with water (5 mL). The organic phase was dried with anhydrous K2CO3, filtered, and concentrated under reduced pressure. Silica gel chromatography (CH2Cl2 /MeOH;98:2) of the concentrate yielded product (2.29 g, 65%).

reactant | 4-chloro-5-ethoxypyrimidine | 12.5 mmol, 1.98 g | ClC1=NC=NC=C1OCC | C6H7ClN2O
reactant | ethyl 1-piperazinecarboxylate | 37.5 mmol, 5.93 g | N1(CCNCC1)C(=O)OCC | C7H14N2O2
reactant | K2CO3 | 37.5 mmol, 5.18 g | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | 75 mL | CC#N | C2H3N
product | 4-(Ethoxycarbonyl)-1-(5-ethoxy-4-pyrimidinyl)piperazine | 2.29 g, 65% | C(C)OC(=O)N1CCN(CC1)C1=NC=NC=C1OCC | C13H20N4O3
